US04589905
A solution of 6.6 g of 5-chloro-1-(4-bromophenyl)-1H-pyrazole-4-carboxylic acid, ethyl ester in 30 ml of DMF with 2 g of sodium cyanide was heated at approximately 95° C. for 3 hours. The reaction mixture was poured into ice water and the precipitated solid was collected by filtration. The product was recrystallized from 3 A alcohol to afford 5.3 g of 5-cyano-1-(4-bromophenyl)-1H-pyrazole-4-carboxylic acid, ethyl ester. MP=104°-105° C.

reactant | 5-chloro-1-(4-bromophenyl)-1H-pyrazole-4-carboxylic acid, ethyl ester | 6.6 g | ClC1=C(C=NN1C1=CC=C(C=C1)Br)C(=O)OCC | C12H10BrClN2O2
reactant | sodium cyanide | 2 g | [C-]#N.[Na+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 5-cyano-1-(4-bromophenyl)-1H-pyrazole-4-carboxylic acid, ethyl ester | 5.3 g | C(#N)C1=C(C=NN1C1=CC=C(C=C1)Br)C(=O)OCC | C13H10BrN3O2
